US07678820B2
To a suspension of 60% NaH (43 mg) in DMF (4 ml) was added 2-propanol (65 mg) at 0° C., followed by stirring at room temperature for 20 min. After cooling to 0° C. again, 2-{4-[5-(3-chloro-4-fluorophenyl)-1,2,4-oxadiazol-3-yl]-1H-indol-1-yl-acetamide (200 mg) was added thereto. The reaction mixture was radiated with a microwave at 60° C. for 50 min. The reaction solution was added to an aqueous NH4Cl solution, followed by stirring, and then the solvent was evaporated. After adding a mixed solvent (4:1) of chloroform-CH3OH, and suspending, the solid was removed, silica gel was added thereto, and the solvent was evaporated. The residue was purified by silica gel column chromatography (chloroform:CH3OH=100:0 to 98:2; n-hexane:EtOAc=0:100) to obtain 2-{4-[5-(3-chloro-4-isopropylphenyl)-1,2,4-oxadiazol-3-yl]-1H-indol-1-yl}acetamide (17.5 mg) as a white solid.

reactant | NaH | 43 mg | [H-].[Na+]
reactant | 2-propanol | 65 mg | CC(C)O | C3H8O
reactant | 4-[5-(3-chloro-4-fluorophenyl)-1,2,4-oxadiazol-3-yl]-1H-indol-1-yl-acetamide | 200 mg | ClC=1C=C(C=CC1F)C1=NC(=NO1)C1=C2C=CN(C2=CC=C1)CC(=O)N | C18H12ClFN4O2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 2-{4-[5-(3-chloro-4-isopropylphenyl)-1,2,4-oxadiazol-3-yl]-1H-indol-1-yl}acetamide | 17.5 mg | ClC=1C=C(C=CC1C(C)C)C1=NC(=NO1)C1=C2C=CN(C2=CC=C1)CC(=O)N | C21H19ClN4O2
